Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea and vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is ___ yo G4P1 who presented at 25w4d with history of 
hyperemesis s/p four inpatient admissions again with inability 
to tolerate PO since night before presentation. She has been 
admitted four times this pregnancy with
hyperemesis for IV fluid hydration and IV antiemetics. She 
states
she was doing ok until the night before presentation when she 
started to vomit and was unable to tolerate PO. Her last time 
tolerating PO was yesterday afternoon. She reports acid-like 
burning in her throat and a new "dark spot" on her tongue that 
she attributes to acid. She has been taking zofran at home with 
no relief. She denies fever, chills. Reports headache, has not 
yet taken meds. Reports occasional lower abdominal pain, unsure 
if contractions. Denies
vaginal bleeding and SROM.  +FM. 

 
Past Medical History:
PNC:
1. ___ of ___ by LMP
2. Labs: O+/Anti-K Ab+/RI/RPRNR/HBsAg-/HIV-
3. LR ERA
4. Normal FFS
5. Anti-kell antibodies, followed by MFM. Titres 1:128. FOB
negative.

POBHx: G4P1
- G1: missed ab 16w with d&c
- G2: 18w TAB for renal agenesis 
- G3: ___ SVD at 36weeks, also complicated by hyperemesis
- G4: current

PGynHx: No abnormal paps, no STIs, no fibroids.

PMHx: None

PSHx: Breast reduction, foot surgery, pilonidal cyst, D&C x 2

 
Social History:
denies t/e/d, feels safe

 
Physical Exam:
Exam on admission
Vital signs: T 97.8   HR 100  RR 18  BP 107/54
General: NAD, appears tired
HEENT: hyperpigmented area 1cm in size on right aspect of distal
tongue
CV: Regular rhythm, mildly tachycardic
Lungs: CTAB
Abd: soft, NT, ND
Ext: no edema
FHT: Baseline 140, mod var, + accels, no decels
Toco: irritability

 
Pertinent Results:
___ 02:04PM BLOOD WBC-19.5* RBC-4.46 Hgb-12.9 Hct-39.7 
MCV-89 MCH-29.0 MCHC-32.6 RDW-14.4 Plt ___
___ 07:04PM BLOOD WBC-16.3* RBC-3.96* Hgb-11.9* Hct-35.3* 
MCV-89 MCH-29.9 MCHC-33.6 RDW-14.4 Plt ___
___ 08:45AM BLOOD WBC-14.3* RBC-4.00* Hgb-11.5* Hct-35.9* 
MCV-90 MCH-28.6 MCHC-31.9 RDW-14.3 Plt ___
___ 02:04PM BLOOD Neuts-76.8* ___ Monos-3.7 Eos-0.9 
Baso-0.3
___ 07:04PM BLOOD Neuts-74.2* ___ Monos-3.5 Eos-1.7 
Baso-0.4
___ 08:45AM BLOOD Neuts-78.0* ___ Monos-2.4 Eos-0.8 
Baso-0.2
___ 02:04PM BLOOD Glucose-79 UreaN-8 Creat-0.6 Na-133 
K-6.2* Cl-103 HCO3-20* AnGap-16
___ 07:04PM BLOOD Glucose-75 UreaN-6 Creat-0.5 Na-140 K-3.3 
Cl-107 HCO3-21* AnGap-15
___ 08:45AM BLOOD Glucose-123* UreaN-5* Creat-0.5 Na-138 
K-3.5 Cl-108 HCO3-21* AnGap-13
___ 02:04PM BLOOD ALT-23 AST-73* LD(LDH)-724* AlkPhos-93 
TotBili-0.3
___ 07:04PM BLOOD ALT-15 AST-22 TotBili-0.4
___ 02:04PM BLOOD Calcium-8.6 Phos-4.2 Mg-1.9
___ 07:04PM BLOOD Calcium-8.9 Phos-3.5 Mg-1.5*
___ 08:45AM BLOOD Calcium-8.5 Phos-2.4* Mg-1.7
___ 02:27PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 12:37PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:27PM URINE RBC-2 WBC-4 Bacteri-FEW Yeast-NONE Epi-7 
TransE-<1

___ 2:27 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
Ms. ___ is a ___ G4P1 who was admitted to the antepartum 
service for IV hydration and nausea control. Her WBC was 
slightly elevated, but she no signs of infection on exam. It was 
repeated and noted to fall during her stay and she reamined 
afebrile. She was treated with IVF and  
phenergan/zofran/famotidine. She also had a headache treated 
with ytlenol, ativan, fiorecet, and PR compazine. Her vital 
signs remained WNL during her stay. On HD3, she tolerated a 
regular diet and felt better and so was discahrged to home in 
stable condition. ___ G4P1 with N/V 

 
Medications on Admission:
zofran, PNV
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN Pain 
2. Famotidine 20 mg PO BID 
3. Ondansetron 4 mg PO Q6H:PRN nausea 
RX *ondansetron 4 mg 1 tablet,disintegrating(s) by mouth every 6 
hrs Disp #*20 Tablet Refills:*1
4. Prochlorperazine 25 mg PR Q12H headache 
RX *prochlorperazine 25 mg 1 Suppository(s) rectally twice a day 
Disp #*20 Suppository Refills:*0
5. Promethazine 25 mg PR Q6H:PRN nausea 
RX *promethazine [Phenadoz] 25 mg 1 Suppository(s) rectally 
every 6 hours Disp #*20 Suppository Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 25w6
nausea/vomiting

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the antepartum floor for IV hydration and 
medications to control your nausea and headache. Your symptoms 
improved while you were here and you were tolerating fluids and 
food prior to discharge. It is important that you stay hydrated 
and take medications as needed for nausea.
 
Followup Instructions:
___